US06372895B1
Acetochloro-β-D-glucose
To a solution of β-D-glucose pentaacetate (20 g) in CHCl3 (100 mL) was added AlCl3 (3.6 g). After stirring at room temperature, toluene (100 mL) was added, followed by silicic acid (2 g). The mixture was stirred for a few minutes and the precipitate was removed by filtration. The solution was partially concentrated under vacuum and extracted with ice cold water (25 mL). The organic phase was concentrated to a syrupy mixture and ether was added to precipitate acetochloro-β-D-glucose as a powder (12 g).

reactant | β-D-glucose pentaacetate | 20 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C16H22O11
reactant | AlCl3 | 3.6 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
reactant | silicic acid | 2 g | [Si](O)(O)(O)O | H4O4Si
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | Acetochloro-β-D-glucose | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)Cl)OC(=O)C)OC(=O)C)OC(=O)C | C14H19ClO9
